US06143764
N-(3,4-Ethylenedioxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [199]
3,4-Ethylenedioxyaniline (80 mg) was dissolved in toluene (5 ml), triethylamine (0.5 ml) and then triphosgene (50 mg) were added, and the admixture was refluxed with heat for 1 hour. 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) was added, and the admixture was refluxed with heat for 100 minutes. After the addition of aqueous sodium hydrogen carbonate, the reaction mixture was extracted 2 times with ethyl acetate, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 62 mg of the title compound (yield: 74%).

reactant | 3,4-Ethylenedioxyaniline | 80 mg | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
reactant | triphosgene | 50 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | N-(3,4-Ethylenedioxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 62 mg, yield: 74% | C1OC=2C=C(C=CC2OC1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C26H23N3O6
